US04258196
The same general procedure of Example 32 was followed, except here the sec-amide, 2'-methyl-6'-ethyl-2-chloroacetanilide, 21.1 g (0.1 mol), was solubilized with a small amount of THF in 400-500 ml diethyl ether. Reaction went well, but gas evolved when chloroethyl methyl ether was added. However, at final addition (about 2.5×theory) the added ether didn't react although some KH was still present. Upon workup, the product, N-(1-methoxy-1-ethyl)-2'-methyl-6'-ethyl-2-chloroacetanilide, was obtained in 86% yield, b.p. 130° at 0.05 mm Hg.

reactant | 2'-methyl-6'-ethyl-2-chloroacetanilide | CC1=C(NC(CCl)=O)C(=CC=C1)CC | C11H14ClNO
reactant | THF | C1CCOC1 | C4H8O
reactant | chloroethyl methyl ether | COCCCl | C3H7ClO
solvent | diethyl ether | 400-500 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-(1-methoxy-1-ethyl)-2'-methyl-6'-ethyl-2-chloroacetanilide | 86% yield | COC(C)N(C1=C(C=CC=C1CC)C)C(CCl)=O | C14H20ClNO2
